Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Positive left axillary lymph node.

 
Major Surgical or Invasive Procedure:
Left breast axillary lymph node excision.

 
History of Present Illness:
This is an otherwise quite healthy ___ woman who 
underwent a lumpectomy and axillary dissection approximately 3 
weeks ago.  She had a positive lymph node FNA'ed under 
ultrasound; however, the axillary dissection
only showed 10 negative nodes; therefore, it was felt thatthe 
positive node had not been retrieved.  She was re-ultrasounded 
in the office with me and we did identify a node just inferior 
to the seroma cavity.  She is quite a large
woman with a BMI over 40 and initially the patient was reluctant 
to have more surgery and wished to just proceed with endocrine 
therapy and radiation but in the interim she decided she would 
like to have it excised so we proceeded.

 
Past Medical History:
Invasive ductal cancer
Hypertension
Hyperlipidemia
Non-insulin-dependent type 2 diabetes.  Motor vehicle accident 
in ___ resulting in low back pain, now resolved.  Right upper 
extremity radial fixation in ___ after a patient fell on her. 
Gallbladder removal at ___.
Left partial mastectomy plus left axillary dissection (___)
Left Axillary Lymph Node Excision (___)

 
Social History:
___
Family History:
___
 
Physical Exam:
VS:97.7,72,119/82,18,97% RA
General:alert and oriented,obese
Cardiac:RRR
Pulmonary:clear,no wheeze
Abdomen:soft nontender, nondistended
Incision:left axillary dsg c/d/i, no erythema
Extremities:warm well perfused, no edema
 
Brief Hospital Course:
Ms ___ underwent left axillary lymph node excision for invasive 
ductal carcinoma. She tolerated the procedure well. After 
recovery in the PACU she was transferred to the floor for 
further monitoring. 
Her postoperative course was stable.The left axillary site 
remained dry intact without any signs of bleeding or infection. 
She received antiemetics as needed postoperatively for 
nausea.Her diet was advanced to carbohydrate consistency regular 
which was tolerated well. Her blood glucose level were normal 
and her metformin was resumed. Her pain was well controlled on 
oral pain medication.She had good urine output and was 
ambulating without any difficulty. She was discharged home in 
good condition and will follow-up with Dr. ___ in clinic.
 
Medications on Admission:
METFORMIN [GLUCOPHAGE] - Glucophage 500 mg tablet. ___ tablet(s)
by mouth 2 in the morning and 1 at HS -  (Prescribed by Other
Provider)
MOEXIPRIL-HYDROCHLOROTHIAZIDE - moexipril-hydrochlorothiazide 15
mg-25 mg tablet. 1 tablet(s) by mouth once a day -  (Prescribed
by Other Provider)
PRAVASTATIN [PRAVACHOL]
letrozole *NF* 2.5 mg Oral QD 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. MetFORMIN (Glucophage) 500 mg PO QHS 
3. moexipril-hydrochlorothiazide *NF* ___ mg Oral qd 
4. Pravastatin 20 mg PO DAILY 
5. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*25 Tablet Refills:*0
6. letrozole *NF* 2.5 mg ORAL DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Positive left axillary lymph node.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Personal Care: 
1. You may remove your dressing after 48 hours. 
2. You may shower daily. No baths until instructed to do so by 
Dr. ___.
3. You may wear a soft, non-restrictive camisole but no tight or 
underwire bras. 

Activity: 
1. You may resume your regular diet. 
2. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity until instructed by Dr. ___. 
Medications: 
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered. 
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. 
3. Take prescription pain medications for pain not relieved by 
tylenol. 
4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish. 
5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber. 

Call the office IMMEDIATELY if you have any of the following: 
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s). 
2. A large amount of bleeding from the incision(s).
3. Fever greater than 101.5 oF 
4. Severe pain NOT relieved by your medication. 

Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications. 
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
* Any serious change in your symptoms, or any new symptoms that 
concern you. 

 
Followup Instructions:
___